US06599925B2
Following the procedure described in Step 4 of Example 1, 6-[3-(2-cyclopentylethyl)-1-benzofuran-2-yl]-2-naphthol (0.671 g, 1.88 mmol) was brominated with bromine (0.11 mL, 2.2 mmol) and potassium acetate (1.91 g, 19.5 mmol) in glacial acetic acid (19 mL). Purification by flash chromatography using 100% hexane and 1-30% chloroform in hexane as eluants afforded 1-bromo-6-[3-(2-cyclopentylethyl)-1-benzofuran-2-yl]-2-naphthol as a light brown semi-solid (0.609 g). 1HNMR (300 MHz, DMSO-d6): δ10.75 (s, 1H), 8.25 (s, 1H), 8.15 (d, 1H, J=8.6 Hz), 7.95-8.0 (m, 2H), 7.7 (d, 1H, J=8.6 Hz), 7.6 (d, 1H, J=8.6 Hz), 7.25-7.4 (m, 3H), 3.0 (t, 2H, J=8.6 Hz), 1.65-1.95 (m, 5H), 1.4-1.65 (m, 4H), and 1.1-1.25 ppm (m, 2H).

reactant | 6-[3-(2-cyclopentylethyl)-1-benzofuran-2-yl]-2-naphthol | 1.88 mmol, 0.671 g | C1(CCCC1)CCC1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)O | C25H24O2
reactant | bromine | 2.2 mmol, 0.11 mL | BrBr | Br2
reactant | potassium acetate | 19.5 mmol, 1.91 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 19 mL | C(C)(=O)O | C2H4O2
product | 1-bromo-6-[3-(2-cyclopentylethyl)-1-benzofuran-2-yl]-2-naphthol | 0.609 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1CCC1CCCC1)C=CC=C2)O | C25H23BrO2
